US08067408B2
N-[(3-Bromo-2-fluorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide
A mixture of 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid (210 mg, 0.466 mmol), [(3-bromo-2-fluorophenyl)methyl]amine hydrochloride (123 mg, 0.513 mmol), HBTU (194 mg, 0.513 mmol) and diisopropyl ethyl amine (0.5 mL) in DCM (10 mL) was stirred at room temperature for about 5 h. It was concentrated, mixed with EtOAc (25 mL), washed with aqueous NaHCO3 (25 mL) and then NH4Cl (25 mL). The organic layer was collected, dried and concentrated to afford the desired product as a crude mixture (330 mg).

reactant | 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid | 0.466 mmol, 210 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=CC2)CC | C24H29N5O4
reactant | [(3-bromo-2-fluorophenyl)methyl]amine hydrochloride | 0.513 mmol, 123 mg | Cl.BrC=1C(=C(C=CC1)CN)F
reactant | HBTU | 0.513 mmol, 194 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropyl ethyl amine | 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[(3-Bromo-2-fluorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | BrC=1C(=C(C=CC1)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)F | C31H34BrFN6O3
